** sch_path: /home/ubuntu/GitHub/sky130-pll/.loom/worktrees/issue-197/sim/jitter-calibration/testbench/tb_jitter_calibration.sch
**.subckt tb_jitter_calibration
R1 CLK GND 1k m=1
**** begin user architecture code

** GENERATED -- variant K10c: 300 cycles, nominal period
** 3.9952 ns, injected period jitter 1.000000% RMS
** (seeded RNG, seed 185010), TR = TF = 1 ns.
VCLK CLK GND pwl(
+ 0.000000n 0 1.500000n 0 2.500000n 1.8 3.506868n 1.8
+ 4.506868n 0 5.513737n 0 6.513737n 1.8 7.530749n 1.8
+ 8.530749n 0 9.547762n 0 10.547762n 1.8 11.505327n 1.8
+ 12.505327n 0 13.462893n 0 14.462893n 1.8 15.474151n 1.8
+ 16.474151n 0 17.485409n 0 18.485409n 1.8 19.506369n 1.8
+ 20.506369n 0 21.527329n 0 22.527329n 1.8 23.508800n 1.8
+ 24.508800n 0 25.490271n 0 26.490271n 1.8 27.459216n 1.8
+ 28.459216n 0 29.428161n 0 30.428161n 1.8 31.436417n 1.8
+ 32.436417n 0 33.444672n 0 34.444672n 1.8 35.435470n 1.8
+ 36.435470n 0 37.426269n 0 38.426269n 1.8 39.431551n 1.8
+ 40.431551n 0 41.436833n 0 42.436833n 1.8 43.429109n 1.8
+ 44.429109n 0 45.421386n 0 46.421386n 1.8 47.404864n 1.8
+ 48.404864n 0 49.388342n 0 50.388342n 1.8 51.398994n 1.8
+ 52.398994n 0 53.409645n 0 54.409645n 1.8 55.402926n 1.8
+ 56.402926n 0 57.396206n 0 58.396206n 1.8 59.389520n 1.8
+ 60.389520n 0 61.382833n 0 62.382833n 1.8 63.384515n 1.8
+ 64.384515n 0 65.386196n 0 66.386196n 1.8 67.379150n 1.8
+ 68.379150n 0 69.372105n 0 70.372105n 1.8 71.377720n 1.8
+ 72.377720n 0 73.383336n 0 74.383336n 1.8 75.376033n 1.8
+ 76.376033n 0 77.368730n 0 78.368730n 1.8 79.394197n 1.8
+ 80.394197n 0 81.419664n 0 82.419664n 1.8 83.369445n 1.8
+ 84.369445n 0 85.319226n 0 86.319226n 1.8 87.334017n 1.8
+ 88.334017n 0 89.348808n 0 90.348808n 1.8 91.323254n 1.8
+ 92.323254n 0 93.297699n 0 94.297699n 1.8 95.279909n 1.8
+ 96.279909n 0 97.262119n 0 98.262119n 1.8 99.221300n 1.8
+ 100.221300n 0 101.180481n 0 102.180481n 1.8 103.195049n 1.8
+ 104.195049n 0 105.209618n 0 106.209618n 1.8 107.176033n 1.8
+ 108.176033n 0 109.142448n 0 110.142448n 1.8 111.122278n 1.8
+ 112.122278n 0 113.102108n 0 114.102108n 1.8 115.090909n 1.8
+ 116.090909n 0 117.079710n 0 118.079710n 1.8 119.089767n 1.8
+ 120.089767n 0 121.099823n 0 122.099823n 1.8 123.085293n 1.8
+ 124.085293n 0 125.070762n 0 126.070762n 1.8 127.068338n 1.8
+ 128.068338n 0 129.065914n 0 130.065914n 1.8 131.038468n 1.8
+ 132.038468n 0 133.011021n 0 134.011021n 1.8 134.987746n 1.8
+ 135.987746n 0 136.964470n 0 137.964470n 1.8 138.975488n 1.8
+ 139.975488n 0 140.986505n 0 141.986505n 1.8 142.955124n 1.8
+ 143.955124n 0 144.923743n 0 145.923743n 1.8 146.930127n 1.8
+ 147.930127n 0 148.936511n 0 149.936511n 1.8 150.936412n 1.8
+ 151.936412n 0 152.936312n 0 153.936312n 1.8 154.934438n 1.8
+ 155.934438n 0 156.932563n 0 157.932563n 1.8 158.902080n 1.8
+ 159.902080n 0 160.871597n 0 161.871597n 1.8 162.861954n 1.8
+ 163.861954n 0 164.852312n 0 165.852312n 1.8 166.840084n 1.8
+ 167.840084n 0 168.827855n 0 169.827855n 1.8 170.808915n 1.8
+ 171.808915n 0 172.789975n 0 173.789975n 1.8 174.821140n 1.8
+ 175.821140n 0 176.852304n 0 177.852304n 1.8 178.825428n 1.8
+ 179.825428n 0 180.798553n 0 181.798553n 1.8 182.777383n 1.8
+ 183.777383n 0 184.756213n 0 185.756213n 1.8 186.734249n 1.8
+ 187.734249n 0 188.712284n 0 189.712284n 1.8 190.680579n 1.8
+ 191.680579n 0 192.648873n 0 193.648873n 1.8 194.635491n 1.8
+ 195.635491n 0 196.622108n 0 197.622108n 1.8 198.616402n 1.8
+ 199.616402n 0 200.610697n 0 201.610697n 1.8 202.583468n 1.8
+ 203.583468n 0 204.556239n 0 205.556239n 1.8 206.503129n 1.8
+ 207.503129n 0 208.450019n 0 209.450019n 1.8 210.443924n 1.8
+ 211.443924n 0 212.437828n 0 213.437828n 1.8 214.431318n 1.8
+ 215.431318n 0 216.424807n 0 217.424807n 1.8 218.436297n 1.8
+ 219.436297n 0 220.447786n 0 221.447786n 1.8 222.436679n 1.8
+ 223.436679n 0 224.425572n 0 225.425572n 1.8 226.431121n 1.8
+ 227.431121n 0 228.436670n 0 229.436670n 1.8 230.456117n 1.8
+ 231.456117n 0 232.475565n 0 233.475565n 1.8 234.461507n 1.8
+ 235.461507n 0 236.447450n 0 237.447450n 1.8 238.453750n 1.8
+ 239.453750n 0 240.460050n 0 241.460050n 1.8 242.469614n 1.8
+ 243.469614n 0 244.479179n 0 245.479179n 1.8 246.474196n 1.8
+ 247.474196n 0 248.469214n 0 249.469214n 1.8 250.451858n 1.8
+ 251.451858n 0 252.434502n 0 253.434502n 1.8 254.421302n 1.8
+ 255.421302n 0 256.408103n 0 257.408103n 1.8 258.453592n 1.8
+ 259.453592n 0 260.499081n 0 261.499081n 1.8 262.530705n 1.8
+ 263.530705n 0 264.562328n 0 265.562328n 1.8 266.559836n 1.8
+ 267.559836n 0 268.557344n 0 269.557344n 1.8 270.598802n 1.8
+ 271.598802n 0 272.640261n 0 273.640261n 1.8 274.621586n 1.8
+ 275.621586n 0 276.602912n 0 277.602912n 1.8 278.606153n 1.8
+ 279.606153n 0 280.609395n 0 281.609395n 1.8 282.625596n 1.8
+ 283.625596n 0 284.641797n 0 285.641797n 1.8 286.640823n 1.8
+ 287.640823n 0 288.639849n 0 289.639849n 1.8 290.635435n 1.8
+ 291.635435n 0 292.631020n 0 293.631020n 1.8 294.603891n 1.8
+ 295.603891n 0 296.576762n 0 297.576762n 1.8 298.532940n 1.8
+ 299.532940n 0 300.489119n 0 301.489119n 1.8 302.493759n 1.8
+ 303.493759n 0 304.498400n 0 305.498400n 1.8 306.483702n 1.8
+ 307.483702n 0 308.469004n 0 309.469004n 1.8 310.501086n 1.8
+ 311.501086n 0 312.533167n 0 313.533167n 1.8 314.485033n 1.8
+ 315.485033n 0 316.436899n 0 317.436899n 1.8 318.407517n 1.8
+ 319.407517n 0 320.378136n 0 321.378136n 1.8 322.375344n 1.8
+ 323.375344n 0 324.372553n 0 325.372553n 1.8 326.360103n 1.8
+ 327.360103n 0 328.347653n 0 329.347653n 1.8 330.329800n 1.8
+ 331.329800n 0 332.311948n 0 333.311948n 1.8 334.335185n 1.8
+ 335.335185n 0 336.358422n 0 337.358422n 1.8 338.343197n 1.8
+ 339.343197n 0 340.327972n 0 341.327972n 1.8 342.328840n 1.8
+ 343.328840n 0 344.329709n 0 345.329709n 1.8 346.354666n 1.8
+ 347.354666n 0 348.379624n 0 349.379624n 1.8 350.363028n 1.8
+ 351.363028n 0 352.346432n 0 353.346432n 1.8 354.334888n 1.8
+ 355.334888n 0 356.323344n 0 357.323344n 1.8 358.300689n 1.8
+ 359.300689n 0 360.278035n 0 361.278035n 1.8 362.270676n 1.8
+ 363.270676n 0 364.263317n 0 365.263317n 1.8 366.295105n 1.8
+ 367.295105n 0 368.326893n 0 369.326893n 1.8 370.318777n 1.8
+ 371.318777n 0 372.310662n 0 373.310662n 1.8 374.297684n 1.8
+ 375.297684n 0 376.284707n 0 377.284707n 1.8 378.280259n 1.8
+ 379.280259n 0 380.275811n 0 381.275811n 1.8 382.307794n 1.8
+ 383.307794n 0 384.339776n 0 385.339776n 1.8 386.315480n 1.8
+ 387.315480n 0 388.291183n 0 389.291183n 1.8 390.301576n 1.8
+ 391.301576n 0 392.311968n 0 393.311968n 1.8 394.305911n 1.8
+ 395.305911n 0 396.299854n 0 397.299854n 1.8 398.308484n 1.8
+ 399.308484n 0 400.317115n 0 401.317115n 1.8 402.300414n 1.8
+ 403.300414n 0 404.283714n 0 405.283714n 1.8 406.303290n 1.8
+ 407.303290n 0 408.322866n 0 409.322866n 1.8 410.349272n 1.8
+ 411.349272n 0 412.375678n 0 413.375678n 1.8 414.350775n 1.8
+ 415.350775n 0 416.325872n 0 417.325872n 1.8 418.338691n 1.8
+ 419.338691n 0 420.351511n 0 421.351511n 1.8 422.309557n 1.8
+ 423.309557n 0 424.267604n 0 425.267604n 1.8 426.267201n 1.8
+ 427.267201n 0 428.266798n 0 429.266798n 1.8 430.251460n 1.8
+ 431.251460n 0 432.236122n 0 433.236122n 1.8 434.204399n 1.8
+ 435.204399n 0 436.172676n 0 437.172676n 1.8 438.182073n 1.8
+ 439.182073n 0 440.191471n 0 441.191471n 1.8 442.193817n 1.8
+ 443.193817n 0 444.196162n 0 445.196162n 1.8 446.211088n 1.8
+ 447.211088n 0 448.226014n 0 449.226014n 1.8 450.212949n 1.8
+ 451.212949n 0 452.199883n 0 453.199883n 1.8 454.202135n 1.8
+ 455.202135n 0 456.204387n 0 457.204387n 1.8 458.193217n 1.8
+ 459.193217n 0 460.182048n 0 461.182048n 1.8 462.201216n 1.8
+ 463.201216n 0 464.220384n 0 465.220384n 1.8 466.201278n 1.8
+ 467.201278n 0 468.182172n 0 469.182172n 1.8 470.171185n 1.8
+ 471.171185n 0 472.160197n 0 473.160197n 1.8 474.161301n 1.8
+ 475.161301n 0 476.162405n 0 477.162405n 1.8 478.149756n 1.8
+ 479.149756n 0 480.137107n 0 481.137107n 1.8 482.124409n 1.8
+ 483.124409n 0 484.111711n 0 485.111711n 1.8 486.114858n 1.8
+ 487.114858n 0 488.118005n 0 489.118005n 1.8 490.134160n 1.8
+ 491.134160n 0 492.150315n 0 493.150315n 1.8 494.152302n 1.8
+ 495.152302n 0 496.154289n 0 497.154289n 1.8 498.157062n 1.8
+ 499.157062n 0 500.159835n 0 501.159835n 1.8 502.156057n 1.8
+ 503.156057n 0 504.152279n 0 505.152279n 1.8 506.190393n 1.8
+ 507.190393n 0 508.228506n 0 509.228506n 1.8 510.239218n 1.8
+ 511.239218n 0 512.249929n 0 513.249929n 1.8 514.259579n 1.8
+ 515.259579n 0 516.269228n 0 517.269228n 1.8 518.288319n 1.8
+ 519.288319n 0 520.307411n 0 521.307411n 1.8 522.345334n 1.8
+ 523.345334n 0 524.383257n 0 525.383257n 1.8 526.382089n 1.8
+ 527.382089n 0 528.380922n 0 529.380922n 1.8 530.373835n 1.8
+ 531.373835n 0 532.366748n 0 533.366748n 1.8 534.386556n 1.8
+ 535.386556n 0 536.406364n 0 537.406364n 1.8 538.412310n 1.8
+ 539.412310n 0 540.418257n 0 541.418257n 1.8 542.442104n 1.8
+ 543.442104n 0 544.465952n 0 545.465952n 1.8 546.483785n 1.8
+ 547.483785n 0 548.501619n 0 549.501619n 1.8 550.472496n 1.8
+ 551.472496n 0 552.443372n 0 553.443372n 1.8 554.464826n 1.8
+ 555.464826n 0 556.486279n 0 557.486279n 1.8 558.507819n 1.8
+ 559.507819n 0 560.529359n 0 561.529359n 1.8 562.541562n 1.8
+ 563.541562n 0 564.553765n 0 565.553765n 1.8 566.545620n 1.8
+ 567.545620n 0 568.537474n 0 569.537474n 1.8 570.548728n 1.8
+ 571.548728n 0 572.559981n 0 573.559981n 1.8 574.572845n 1.8
+ 575.572845n 0 576.585709n 0 577.585709n 1.8 578.581325n 1.8
+ 579.581325n 0 580.576940n 0 581.576940n 1.8 582.586865n 1.8
+ 583.586865n 0 584.596790n 0 585.596790n 1.8 586.621024n 1.8
+ 587.621024n 0 588.645258n 0 589.645258n 1.8 590.682802n 1.8
+ 591.682802n 0 592.720346n 0 593.720346n 1.8 594.682387n 1.8
+ 595.682387n 0 596.644429n 0 597.644429n 1.8 598.627784n 1.8
+ 599.627784n 0 600.611139n 0 601.611139n 1.8 602.596769n 1.8
+ 603.596769n 0 604.582399n 0 605.582399n 1.8 606.582382n 1.8
+ 607.582382n 0 608.582365n 0 609.582365n 1.8 610.575906n 1.8
+ 611.575906n 0 612.569446n 0 613.569446n 1.8 614.594037n 1.8
+ 615.594037n 0 616.618627n 0 617.618627n 1.8 618.625290n 1.8
+ 619.625290n 0 620.631952n 0 621.631952n 1.8 622.614086n 1.8
+ 623.614086n 0 624.596219n 0 625.596219n 1.8 626.604862n 1.8
+ 627.604862n 0 628.613505n 0 629.613505n 1.8 630.636638n 1.8
+ 631.636638n 0 632.659771n 0 633.659771n 1.8 634.651663n 1.8
+ 635.651663n 0 636.643555n 0 637.643555n 1.8 638.634562n 1.8
+ 639.634562n 0 640.625569n 0 641.625569n 1.8 642.660697n 1.8
+ 643.660697n 0 644.695825n 0 645.695825n 1.8 646.724286n 1.8
+ 647.724286n 0 648.752747n 0 649.752747n 1.8 650.729697n 1.8
+ 651.729697n 0 652.706648n 0 653.706648n 1.8 654.730529n 1.8
+ 655.730529n 0 656.754409n 0 657.754409n 1.8 658.738965n 1.8
+ 659.738965n 0 660.723520n 0 661.723520n 1.8 662.744340n 1.8
+ 663.744340n 0 664.765161n 0 665.765161n 1.8 666.769236n 1.8
+ 667.769236n 0 668.773310n 0 669.773310n 1.8 670.779109n 1.8
+ 671.779109n 0 672.784907n 0 673.784907n 1.8 674.770100n 1.8
+ 675.770100n 0 676.755292n 0 677.755292n 1.8 678.741159n 1.8
+ 679.741159n 0 680.727026n 0 681.727026n 1.8 682.753739n 1.8
+ 683.753739n 0 684.780452n 0 685.780452n 1.8 686.740349n 1.8
+ 687.740349n 0 688.700245n 0 689.700245n 1.8 690.722522n 1.8
+ 691.722522n 0 692.744799n 0 693.744799n 1.8 694.733302n 1.8
+ 695.733302n 0 696.721805n 0 697.721805n 1.8 698.717708n 1.8
+ 699.717708n 0 700.713611n 0 701.713611n 1.8 702.675563n 1.8
+ 703.675563n 0 704.637516n 0 705.637516n 1.8 706.626199n 1.8
+ 707.626199n 0 708.614882n 0 709.614882n 1.8 710.606243n 1.8
+ 711.606243n 0 712.597604n 0 713.597604n 1.8 714.610071n 1.8
+ 715.610071n 0 716.622539n 0 717.622539n 1.8 718.616746n 1.8
+ 719.616746n 0 720.610954n 0 721.610954n 1.8 722.620341n 1.8
+ 723.620341n 0 724.629728n 0 725.629728n 1.8 726.615008n 1.8
+ 727.615008n 0 728.600288n 0 729.600288n 1.8 730.619526n 1.8
+ 731.619526n 0 732.638764n 0 733.638764n 1.8 734.636374n 1.8
+ 735.636374n 0 736.633984n 0 737.633984n 1.8 738.641396n 1.8
+ 739.641396n 0 740.648808n 0 741.648808n 1.8 742.667630n 1.8
+ 743.667630n 0 744.686453n 0 745.686453n 1.8 746.674657n 1.8
+ 747.674657n 0 748.662861n 0 749.662861n 1.8 750.655016n 1.8
+ 751.655016n 0 752.647172n 0 753.647172n 1.8 754.646050n 1.8
+ 755.646050n 0 756.644928n 0 757.644928n 1.8 758.658483n 1.8
+ 759.658483n 0 760.672038n 0 761.672038n 1.8 762.647911n 1.8
+ 763.647911n 0 764.623784n 0 765.623784n 1.8 766.626565n 1.8
+ 767.626565n 0 768.629347n 0 769.629347n 1.8 770.628072n 1.8
+ 771.628072n 0 772.626798n 0 773.626798n 1.8 774.619628n 1.8
+ 775.619628n 0 776.612458n 0 777.612458n 1.8 778.625932n 1.8
+ 779.625932n 0 780.639406n 0 781.639406n 1.8 782.669285n 1.8
+ 783.669285n 0 784.699165n 0 785.699165n 1.8 786.702671n 1.8
+ 787.702671n 0 788.706178n 0 789.706178n 1.8 790.655947n 1.8
+ 791.655947n 0 792.605715n 0 793.605715n 1.8 794.613039n 1.8
+ 795.613039n 0 796.620363n 0 797.620363n 1.8 798.639178n 1.8
+ 799.639178n 0 800.657994n 0 801.657994n 1.8 802.682611n 1.8
+ 803.682611n 0 804.707227n 0 805.707227n 1.8 806.679751n 1.8
+ 807.679751n 0 808.652275n 0 809.652275n 1.8 810.659996n 1.8
+ 811.659996n 0 812.667716n 0 813.667716n 1.8 814.655163n 1.8
+ 815.655163n 0 816.642609n 0 817.642609n 1.8 818.657736n 1.8
+ 819.657736n 0 820.672864n 0 821.672864n 1.8 822.649592n 1.8
+ 823.649592n 0 824.626321n 0 825.626321n 1.8 826.626631n 1.8
+ 827.626631n 0 828.626942n 0 829.626942n 1.8 830.616341n 1.8
+ 831.616341n 0 832.605740n 0 833.605740n 1.8 834.562969n 1.8
+ 835.562969n 0 836.520198n 0 837.520198n 1.8 838.471997n 1.8
+ 839.471997n 0 840.423796n 0 841.423796n 1.8 842.410139n 1.8
+ 843.410139n 0 844.396481n 0 845.396481n 1.8 846.416242n 1.8
+ 847.416242n 0 848.436002n 0 849.436002n 1.8 850.433883n 1.8
+ 851.433883n 0 852.431765n 0 853.431765n 1.8 854.448887n 1.8
+ 855.448887n 0 856.466009n 0 857.466009n 1.8 858.447200n 1.8
+ 859.447200n 0 860.428391n 0 861.428391n 1.8 862.409908n 1.8
+ 863.409908n 0 864.391424n 0 865.391424n 1.8 866.389657n 1.8
+ 867.389657n 0 868.387890n 0 869.387890n 1.8 870.373727n 1.8
+ 871.373727n 0 872.359563n 0 873.359563n 1.8 874.386385n 1.8
+ 875.386385n 0 876.413207n 0 877.413207n 1.8 878.434379n 1.8
+ 879.434379n 0 880.455551n 0 881.455551n 1.8 882.474961n 1.8
+ 883.474961n 0 884.494370n 0 885.494370n 1.8 886.466997n 1.8
+ 887.466997n 0 888.439624n 0 889.439624n 1.8 890.467034n 1.8
+ 891.467034n 0 892.494444n 0 893.494444n 1.8 894.480302n 1.8
+ 895.480302n 0 896.466161n 0 897.466161n 1.8 898.479453n 1.8
+ 899.479453n 0 900.492744n 0 901.492744n 1.8 902.494194n 1.8
+ 903.494194n 0 904.495644n 0 905.495644n 1.8 906.509323n 1.8
+ 907.509323n 0 908.523001n 0 909.523001n 1.8 910.520908n 1.8
+ 911.520908n 0 912.518814n 0 913.518814n 1.8 914.518734n 1.8
+ 915.518734n 0 916.518654n 0 917.518654n 1.8 918.529758n 1.8
+ 919.529758n 0 920.540861n 0 921.540861n 1.8 922.514109n 1.8
+ 923.514109n 0 924.487357n 0 925.487357n 1.8 926.461517n 1.8
+ 927.461517n 0 928.435676n 0 929.435676n 1.8 930.434670n 1.8
+ 931.434670n 0 932.433663n 0 933.433663n 1.8 934.411066n 1.8
+ 935.411066n 0 936.388468n 0 937.388468n 1.8 938.389903n 1.8
+ 939.389903n 0 940.391337n 0 941.391337n 1.8 942.364532n 1.8
+ 943.364532n 0 944.337727n 0 945.337727n 1.8 946.351006n 1.8
+ 947.351006n 0 948.364284n 0 949.364284n 1.8 950.382460n 1.8
+ 951.382460n 0 952.400636n 0 953.400636n 1.8 954.403430n 1.8
+ 955.403430n 0 956.406224n 0 957.406224n 1.8 958.397533n 1.8
+ 959.397533n 0 960.388842n 0 961.388842n 1.8 962.391470n 1.8
+ 963.391470n 0 964.394097n 0 965.394097n 1.8 966.380288n 1.8
+ 967.380288n 0 968.366480n 0 969.366480n 1.8 970.358702n 1.8
+ 971.358702n 0 972.350924n 0 973.350924n 1.8 974.350760n 1.8
+ 975.350760n 0 976.350596n 0 977.350596n 1.8 978.339085n 1.8
+ 979.339085n 0 980.327575n 0 981.327575n 1.8 982.319325n 1.8
+ 983.319325n 0 984.311076n 0 985.311076n 1.8 986.314020n 1.8
+ 987.314020n 0 988.316964n 0 989.316964n 1.8 990.280113n 1.8
+ 991.280113n 0 992.243261n 0 993.243261n 1.8 994.209279n 1.8
+ 995.209279n 0 996.175297n 0 997.175297n 1.8 998.183632n 1.8
+ 999.183632n 0 1000.191966n 0 1001.191966n 1.8 1002.174366n 1.8
+ 1003.174366n 0 1004.156766n 0 1005.156766n 1.8 1006.154417n 1.8
+ 1007.154417n 0 1008.152068n 0 1009.152068n 1.8 1010.134500n 1.8
+ 1011.134500n 0 1012.116932n 0 1013.116932n 1.8 1014.113604n 1.8
+ 1015.113604n 0 1016.110276n 0 1017.110276n 1.8 1018.096188n 1.8
+ 1019.096188n 0 1020.082101n 0 1021.082101n 1.8 1022.081631n 1.8
+ 1023.081631n 0 1024.081161n 0 1025.081161n 1.8 1026.090274n 1.8
+ 1027.090274n 0 1028.099387n 0 1029.099387n 1.8 1030.081768n 1.8
+ 1031.081768n 0 1032.064149n 0 1033.064149n 1.8 1034.046808n 1.8
+ 1035.046808n 0 1036.029466n 0 1037.029466n 1.8 1038.002033n 1.8
+ 1039.002033n 0 1039.974600n 0 1040.974600n 1.8 1042.007825n 1.8
+ 1043.007825n 0 1044.041050n 0 1045.041050n 1.8 1046.088248n 1.8
+ 1047.088248n 0 1048.135447n 0 1049.135447n 1.8 1050.103321n 1.8
+ 1051.103321n 0 1052.071195n 0 1053.071195n 1.8 1054.079829n 1.8
+ 1055.079829n 0 1056.088463n 0 1057.088463n 1.8 1058.150540n 1.8
+ 1059.150540n 0 1060.212616n 0 1061.212616n 1.8 1062.193309n 1.8
+ 1063.193309n 0 1064.174002n 0 1065.174002n 1.8 1066.179813n 1.8
+ 1067.179813n 0 1068.185624n 0 1069.185624n 1.8 1070.205758n 1.8
+ 1071.205758n 0 1072.225892n 0 1073.225892n 1.8 1074.244219n 1.8
+ 1075.244219n 0 1076.262547n 0 1077.262547n 1.8 1078.276731n 1.8
+ 1079.276731n 0 1080.290915n 0 1081.290915n 1.8 1082.284341n 1.8
+ 1083.284341n 0 1084.277768n 0 1085.277768n 1.8 1086.270219n 1.8
+ 1087.270219n 0 1088.262671n 0 1089.262671n 1.8 1090.283715n 1.8
+ 1091.283715n 0 1092.304759n 0 1093.304759n 1.8 1094.263171n 1.8
+ 1095.263171n 0 1096.221582n 0 1097.221582n 1.8 1098.205574n 1.8
+ 1099.205574n 0 1100.189566n 0 1101.189566n 1.8 1102.182703n 1.8
+ 1103.182703n 0 1104.175840n 0 1105.175840n 1.8 1106.166460n 1.8
+ 1107.166460n 0 1108.157079n 0 1109.157079n 1.8 1110.148018n 1.8
+ 1111.148018n 0 1112.138957n 0 1113.138957n 1.8 1114.122688n 1.8
+ 1115.122688n 0 1116.106418n 0 1117.106418n 1.8 1118.101986n 1.8
+ 1119.101986n 0 1120.097553n 0 1121.097553n 1.8 1122.100359n 1.8
+ 1123.100359n 0 1124.103165n 0 1125.103165n 1.8 1126.065094n 1.8
+ 1127.065094n 0 1128.027023n 0 1129.027023n 1.8 1130.015999n 1.8
+ 1131.015999n 0 1132.004974n 0 1133.004974n 1.8 1134.009227n 1.8
+ 1135.009227n 0 1136.013481n 0 1137.013481n 1.8 1138.027379n 1.8
+ 1139.027379n 0 1140.041277n 0 1141.041277n 1.8 1142.075004n 1.8
+ 1143.075004n 0 1144.108731n 0 1145.108731n 1.8 1146.126337n 1.8
+ 1147.126337n 0 1148.143943n 0 1149.143943n 1.8 1150.146576n 1.8
+ 1151.146576n 0 1152.149209n 0 1153.149209n 1.8 1154.144257n 1.8
+ 1155.144257n 0 1156.139305n 0 1157.139305n 1.8 1158.148948n 1.8
+ 1159.148948n 0 1160.158591n 0 1161.158591n 1.8 1162.154341n 1.8
+ 1163.154341n 0 1164.150091n 0 1165.150091n 1.8 1166.169902n 1.8
+ 1167.169902n 0 1168.189713n 0 1169.189713n 1.8 1170.226487n 1.8
+ 1171.226487n 0 1172.263262n 0 1173.263262n 1.8 1174.259014n 1.8
+ 1175.259014n 0 1176.254766n 0 1177.254766n 1.8 1178.233224n 1.8
+ 1179.233224n 0 1180.211681n 0 1181.211681n 1.8 1182.173582n 1.8
+ 1183.173582n 0 1184.135484n 0 1185.135484n 1.8 1186.115945n 1.8
+ 1187.115945n 0 1188.096407n 0 1189.096407n 1.8 1190.108741n 1.8
+ 1191.108741n 0 1192.121075n 0 1193.121075n 1.8 1194.097215n 1.8
+ 1195.097215n 0 1196.073354n 0 1197.073354n 1.8 1198.066677n 1.8
+ 1199.066677n 0 1200.060000n 0 1201.060000n 1.8 1202.057600n 1.8
+ 1203.057600n 0
+ )


** sky130 PDK model include (tt corner) -- patched per-point by sim/harness.
** No device in this testbench uses it: it is here so the harness's own
** corner substitution and this record's environment provenance are the same
** as every other campaign's. See this file's header comment.
.lib /home/ubuntu/.volare/sky130A/libs.tech/combined/sky130.lib.spice tt
** No .tran/.print card here on purpose -- sim/harness/measure.py injects the
** analysis from this manifest's own measure block.

**** end user architecture code
**.ends
.GLOBAL GND
.temp 27
.control
set filetype=ascii
save v(CLK)
tran 200p 1.25u
linearize v(CLK)
wrdata tt_27c_1.80v-point000.raw v(CLK)
destroy all
echo "sim/harness: analysis complete"
.endc
.end
